US05855812
Preparation of 5-Decyl-2-[4-(5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)pentyloxy)phenyl]pyrimidine
Using essentially the procedure of Comparative Example A, the title compound was prepared by combining 5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)-l-bromopentane (4.4 g, 7.6 mmol), 5 -decyl-2-(4-hydroxyphenyl)pyrimidine (2.0 g, 6.4 mmol), potassium carbonate (0.5 g, 10 mmol), acetonitrile (20 mL), and dimethyl formamide (20 mL). The resulting crude product was isolated and purified essentially as in Comparative Example A to yield 4.98 g.

reactant | 5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)-l-bromopentane | 7.6 mmol, 4.4 g | FC(C(C(OC(C(OC(COCCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C13H12BrF15O3
reactant | 5 -decyl-2-(4-hydroxyphenyl)pyrimidine | 6.4 mmol, 2.0 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | potassium carbonate | 10 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-Decyl-2-[4-(5-(2-(2 -(nonafluorobutoxy)tetrafluoroethoxy)-2,2 -difluoroethoxy)pentyloxy)phenyl]pyrimidine | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C33H39F15N2O4
